US06589977B1
To a solution of 5-methylindole (90 mg, 0.78 mmol) dissolved in THF (3 mL) was added 0.95M ethylmagnesium bromide (0.83 mL, 0.78 mmol) at 40° C., and the whole was stirred at 40° C. for 45 minutes. Successively, thereto was added a solution of 2,3-dibromo-N-methylmaleimide (100 mg, 0.39 mmol) dissolved in THF (5 mL), followed by stirring under heating and refluxing for 3 hours. After 20% aqueous citric acid solution (1 mL) was added thereto under ice cooling and the whole was stirred, THF was removed by concentration under reduced pressure and the resulting concentrate was extracted with ethyl acetate. The extract was dried over sodium sulfate and then concentrated under reduced pressure. The residue was purified by column chromatography over silica gel (ethyl acetate:n-hexane=1:1) to obtain 2-bromo-3-(5-methyl-1H-indol-3-yl)-N-methylmaleimide (108 mg, 86.3%) as red solids.

reactant | 5-methylindole | 0.78 mmol, 90 mg | CC=1C=C2C=CNC2=CC1 | C9H9N
reactant | ethylmagnesium bromide | 0.78 mmol, 0.95M, 0.83 mL | C(C)[Mg]Br
reactant | 2,3-dibromo-N-methylmaleimide | 0.39 mmol, 100 mg | BrC=1C(=O)N(C(C1Br)=O)C | C5H3Br2NO2
reactant | citric acid | 1 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 2-bromo-3-(5-methyl-1H-indol-3-yl)-N-methylmaleimide | 108 mg, 86.3% | BrC=1C(=O)N(C(C1C1=CNC2=CC=C(C=C12)C)=O)C | C14H11BrN2O2
